US08067415B2
To a solution of N-allyl-4-methoxyaniline (1.00 g, 6.13 mmol) in methylene chloride (20 mL) was added K2CO3 (2.12 mg, 15.3 mmol) and acryloyl chloride (548 μL, 6.74 mmol) at 0° C. After 15 min., the reaction was quenched with NaHCO3 (5 mL, sat. aq.) and the organic layer was isolated, concentrated and subjected to flash chromatography (Hexanes:EtOAc 4:1) to yield N-allyl-N-(4-methoxyphenyl)acrylamide (1.29 mg, 97%).

reactant | N-allyl-4-methoxyaniline | 6.13 mmol, 1.00 g | C(C=C)NC1=CC=C(C=C1)OC | C10H13NO
reactant | K2CO3 | 15.3 mmol, 2.12 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acryloyl chloride | 6.74 mmol, 548 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-allyl-N-(4-methoxyphenyl)acrylamide | 1.29 mg, 97% | C(C=C)N(C(C=C)=O)C1=CC=C(C=C1)OC | C13H15NO2
